US05801176
4-(6-Fluorobenzo[b]thien-3-yl)-1-[4-(isoindol-2-yl)butyl]piperazine
To a stirred suspension of LiAlH4 (1.50 g, 37.9 mmol) in anhydrous tetrahydrofuran (100 mL) under a nitrogen atmosphere at room temperature was added dropwise a solution of 2-[4-[4-(6-fluorobenzo[b]thien-3-yl)-1-piperazinyl]butyl]-1H-isoindole-1,3(2H)-dione (5.95 g, 13.6 mmol) in anhydrous tetrahydrofuran (125 mL) over 20 minutes. After the addition the reaction was stirred at 50° C. for 4 hours and then cooled to room temperature. The reaction was treated sequentially with water (1.5 mL), 15% NaOH (1.5 mL), and water (4.5 mL) and stirred at room temperature for 0.5 hours. The mixture was filtered, the insolubles washed with CHCl3 (2 ×50 mL), and the filtrate concentrated in vacuo. The residue was dissolved in chloroform (200 mL), washed with water (100 mL), dried (K2CO3), and the solvent removed in vacuo. The crude product was chromatographed on silica gel with 10% methanol in dichloromethane as eluent to afford 3.50 g of a tan solid. The solid was recrystallized twice from ethyl acetate to afford 1.48 g (26%) of the title compound as amber crystals, m.p. 118°-120° C.

reactant | LiAlH4 | 37.9 mmol, 1.50 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-[4-[4-(6-fluorobenzo[b]thien-3-yl)-1-piperazinyl]butyl]-1H-isoindole-1,3(2H)-dione | 13.6 mmol, 5.95 g | FC=1C=CC2=C(SC=C2N2CCN(CC2)CCCCN2C(C3=CC=CC=C3C2=O)=O)C1 | C24H24FN3O2S
reactant | water | 1.5 mL | O | H2O
reactant | NaOH | 1.5 mL | [OH-].[Na+]
reactant | water | 4.5 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | 4-(6-Fluorobenzo[b]thien-3-yl)-1-[4-(isoindol-2-yl)butyl]piperazine | 3.50 g | FC=1C=CC2=C(SC=C2N2CCN(CC2)CCCCN2C=C3C=CC=CC3=C2)C1 | C24H26FN3S
